US05861359
Step C Synthesis of N-methylsulfonyl-2-[5-ethyl-2-[3-fluoro-4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenoxymethyl]phenoxy]propanamide (Compound 11)
A stirring mixture of 2.6 0 grams (0.0050 mole) of 2-[5-ethyl-2-[3-fluoro-4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenoxymethyl]phenoxy]propanoic acid chloride and 0.52 gram (0.0055 mole) of methylsulfonylamine is heated at about 120° C. for two hours. The reaction mixture is then cooled and dissolved in about 35 mL of methylene chloride. The solution is washed with water, dried with magnesium sulfate, and filtered. The filtrate is concentrated under reduced pressure, yielding the title compound.

reactant | 2-[5-ethyl-2-[3-fluoro-4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenoxymethyl]phenoxy]propanoic acid chloride | C(C)C=1C=CC(=C(OC(C(=O)Cl)C)C1)COC1=CC(=C(C=C1)C1=NN(C(=C1Cl)OC(F)F)C)F | C23H21Cl2F3N2O4
reactant | methylsulfonylamine | 0.0055 mole, 0.52 gram | CS(=O)(=O)N | CH5NO2S
solvent | methylene chloride | about 35 mL | C(Cl)Cl | CH2Cl2
product | N-methylsulfonyl-2-[5-ethyl-2-[3-fluoro-4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenoxymethyl]phenoxy]propanamide | CS(=O)(=O)NC(C(C)OC1=C(C=CC(=C1)CC)COC1=CC(=C(C=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)=O | C24H25ClF3N3O6S
